US05747517
Preparation of (Z)-5-[[3-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]phenyl]methylene]-2-thioxo-4-thiazolidinone
Under a nitrogen atmosphere in a three-neck round bottom flask 3-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]benzaldehyde (0.73 g, 2.34 mmol), rhodanine (0.34 g, 2.55 mmol), sodium acetate (0.23 g, 2.80 mmol) and acetic acid (20 ml) were combined and then heated to reflux. The reaction mixture was allowed to reflux. The progress of the reaction was monitored by thin layer chromatography.

reactant | 3-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]benzaldehyde | 2.34 mmol, 0.73 g | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=O)C=CC2)C=C1)CCC)O | C19H20O4
reactant | rhodanine | 2.55 mmol, 0.34 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 2.80 mmol, 0.23 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (Z)-5-[[3-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]phenyl]methylene]-2-thioxo-4-thiazolidinone | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)\C=C/2\C(NC(S2)=S)=O)C=C1)CCC)O | C22H21NO4S2
